US07157487B2
(Step 2) Synthesis of (Z)-(2S,4S)-2-(4-benzyloxy-2-butenyloxymethyl)-1-(tert-butoxycarbonyl)-4-fluoropyrrolidine
To a solution of (2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethanol (2.46 g, 11.2 mmol) in THF (100 ml), sodium hydride (60% in oil; 896 mg, 22.4 mmol) was added in portions under stirring at 0° C. in a nitrogen gas stream. After stirring at the same temperature for 20 minutes, a solution of (Z)-4-benzyloxy-1-bromo-2-butene (2.76 g, 11.2 mmol) in THF (100 ml) was added. The reaction mixture was stirred for 5 minutes. To the reaction mixture was added tetra-n-butyl ammonium iodide (100 mg, 0.27 mmol) at 0° C. and the mixture was stirred for 15 minutes. The reaction mixture was stirred further at room temperature for 19 hours. Water (50 ml) was added while stirring the reaction mixture under ice cooling, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 120 g), whereby from hexane/ethyl acetate (4/1) eluate fractions, the title compound (3.30 g, 78%) was obtained as a colorless oil.

reactant | (2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethanol | 11.2 mmol, 2.46 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)CO | C10H18FNO3
reactant | sodium hydride | 22.4 mmol, 896 mg | [H-].[Na+]
reactant | (Z)-4-benzyloxy-1-bromo-2-butene | 11.2 mmol, 2.76 g | C(C1=CC=CC=C1)OC\C=C/CBr | C11H13BrO
reactant | Water | 50 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | tetra-n-butyl ammonium iodide | 0.27 mmol, 100 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (Z)-(2S,4S)-2-(4-benzyloxy-2-butenyloxymethyl)-1-(tert-butoxycarbonyl)-4-fluoropyrrolidine | 3.30 g, 78% | C(C1=CC=CC=C1)OC\C=C/COC[C@H]1N(C[C@H](C1)F)C(=O)OC(C)(C)C | C21H30FNO4
